Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Demerol / Valium / Percocet / Phenergan
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
  ___ hx of atypical CP, PE x 2, recurrent DVT (on chronic 
coumadin), and SVT s/p multiple ablation and antiarrhythmic 
drugs p/w chest pain. The patient has a history of pulmonary 
embolisms, required to take lifelong Coumadin, has a history of 
noncompliance with this. Yesterday began to have pleuritic and 
positional chest pain that she feels is like her pulmonary 
embolisms. Additionally she been experiencing episodes of SVT, 
terminating with vagal maneuvers at home.  
Today the pain increased to the point where she went to the 
emergency department at an outside hospital, initially came in 
overnight and left ama and then returned in the afternoon where 
she was discovered to be in SVT 140's with CP and improved with 
metoprolol 5 mg IV. It does discovered that her INR was 1, so 
she was given 100 mg of subcutaneous Lovenox. Patient was 
transferred here for further evaluation. Patient reports that 
she is alert allergic to contrast dye, causing her "throat to 
close up". She also had a femoral central line placed given 
difficult access, notes from OSH ED note multiple attempts 
including EJ and peripheral with u/s guidance that failed, has 
h/o SVT with IJ line placement. Trop negative x1. Also received 
dilaudid 2 mg PO, lorazepam 1 mg PO, and IV dilaudid. Admits to 
not taking her coumadin in the last 5 days.  
Of note the patient had a similar admission in ___, with 
chest pain similar to prior PEs, during which she also was found 
to have subtherapeutic INR. She has a h/o saddle PEs and a 
recent clean cardiac cath in ___. prior w/u of her h/o DVT/PE 
was negative for hypercoagulable state except for a + lupus 
anticoagulant while on coumadin. Her first PE occured as a 
complication of ablation in ___.  
The patient also has a long history of atypical chest pain with 
multiple visits to various hospitals every ___ weeks, there has 
been concern in the past for narcotic seeking behavior, is s/p 
cardiac cath x 3 wih no significant disease most recently ___ 
at ___. Her SVT has been refractory in the past to 
antiarrhythmics and is only on metoprolol now, has had multiple 
ablations and EP studies at ___, ___, and ___.  
In the ___ ED, initial vS were 97.3 103 112/63 20 95%. EKG 
with sinus rhythm, with no ST/T wave changes. No pericardial 
effusion on ED bedside u/s. Pt triggered for tachy to 140s, 
given lopressor 5 mg IV and 25 mg PO. She also complained of 
nausea and chest pain in ED, At___ cardiology called, 
recommended admit to medicine given no clear cardiac issue. She 
received zofran, fentanyl as well. D dimer 435, trop neg, bnp 
104, hct 35 (near baseline). EKG in sinus rhythm in ___ after 
receiving IV metoprolol.  
On arrival to the floor, patient is complaining of chest pain, 
which has been intermittent since arrival.  
 
 
Past Medical History:
1. CARDIAC RISK FACTORS: No Diabetes, Dyslipidemia, or 
Hypertension  
2. CARDIAC HISTORY:  
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS:  none, most recent cath 
clean in ___
-PACING/ICD: none 
SVT
HYPOTHYROIDISM
THROMBOPHLEBITIS
LOW BACK PAIN
Obesity
Thyroid nodule
Radial artery occlusion, right
Palpitations 
Pulmonary embolism 
 
Social History:
___
Family History:
Father: first MI in mid ___, h/o vtach, afib, T2DM  
Son: AV nodal reentry  
Aunt: ___ CA at age ___  
 
Physical Exam:
PHYSICAL EXAM:  
GENERAL - well-appearing in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, CNs II-XII grossly intact  
 
 
Pertinent Results:
___ 09:12PM   D-DIMER-435
___ 08:00PM   GLUCOSE-95 UREA N-9 CREAT-0.9 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-22 ANION GAP-14
___ 08:00PM   cTropnT-<0.01
___ 08:00PM   proBNP-104
___ 08:00PM   CALCIUM-8.8 PHOSPHATE-2.9 MAGNESIUM-1.8
___ 08:00PM   TSH-7.4*
___ 08:00PM   WBC-8.3 RBC-3.83* HGB-12.0 HCT-35.8* MCV-94 
MCH-31.5 MCHC-33.6 RDW-12.5
___ 08:00PM   NEUTS-70.5* ___ MONOS-5.1 EOS-0.9 
BASOS-0.3
___ 08:00PM   ___ PTT-34.0 ___

IMAGING:
CXR (Portable AP) ___:
FINDINGS:  Portable frontal chest radiograph demonstrates no 
focal 
consolidation, pleural effusion, or pneumothorax.  The heart 
size is normal.  The cardiac, mediastinal and hilar contours are 
normal.   
IMPRESSION:  No acute cardiopulmonary process. 

TTE ___:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Transmitral and tissue 
Doppler imaging suggests normal diastolic function, and a normal 
left ventricular filling pressure (PCWP<12mmHg). The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
myxomatous. There is mild bileaflet mitral valve prolapse. 
Trivial mitral regurgitation is seen. There is borderline 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
IMPRESSION: normal regional and global left ventricular systolic 
function. Borderline dilation of the right ventricle with normal 
function. Mild bileaflet mitral valve prolapse without 
significant mitral regurgitation. Borderline elevation of 
pulmonary artery systolic pressure.
Compared with the prior study (images reviewed) of ___, 
mild mitral prolapse is present on the current study. The other 
findings are similar.
 
Brief Hospital Course:
___ with h/o SVT s/p ablation and multiple PEs (saddle embolus 
___ on lifelong anticoagulation with warfarin who presented 
following 2 episodes of chest pain.

# Chest pain: Pt reported that chest pain was distinct from pain 
experienced with prior PEs and attributed it to anxiety, as both 
episodes had occurred in the setting of stressful situations at 
her new job as an ___.  Negative BNP, cardiac 
enzymes and EKG made cardiac etiology unlikely and PE ruled out 
with negative d-dimer. Pt was continued on home lorazepam and 
discharged with plan to discuss anxiety management with PCP.

# Tachyarrhthmia: Pt had single episode of tachycardia to 140s 
which resolved with lopressor 5 mg IV and 25 mg PO. It was felt 
to be most likely her recurrent SVT.  
She was continued on her home metoprolol without further 
incident. 

# History of DVT/PE: Pt reported noncompliance with warfarin due 
to inconvenience but was able to verbalize understanding of the 
risk of potentially fatal blood clots if she did not continue 
anticoagulation. INR subtherapeutic at 1.1. Pt was restarted on 
home warfarin dose with enoxaparin bridge. She expressed 
interest in possibly continuing enoxaparin in place of warfarin 
as she did not have time to go to ___ clinic 
regularly. She will discuss this option with her primary care 
provider.

# Hypotension: Pt was noted to have low blood pressure ___ 
with associated dizziness with ambulation after hydromorphone 
given for chest pain. Resolved after discontinuation of 
hydromorphone.

# Hypothyroidism: Pt has h/o hypothyroid and thyroid nodule, on 
home levothyroxine.She reported several week h/o decreased 
energy level, brittle hair and thyroid fullness and was noted to 
have assymetric thyromegaly (R>L) and tenderness to palpation on 
exam. TSH this admission was elevated at 7.2; result returned 
after patient had left the hospital.
 

TRANSITIONAL ISSUES:
# Hypothyroidism: Pt noted to have assymetric thyromegaly on 
exam, TSH 7.___ischarged. Will need upward 
titration of home levothyroxine and repeat TSH in ___ weeks.
# Anticoagulation: Pt discharged on enoxaparin as bridge to 
warfarin, may consider continuing in place of warfarin as this 
appears to be patient's preference. Will need repeat INR ___ at 
___. 
# Anxiety: Pt discharged with small supply of lorazepam; will 
need follow up and further management of her significant anxiety 
with consideration of SSRI, psych therapy  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Virus Vaccine 0.5 mL IM NOW X1 
Follow Influenza Protocol
Document administration in POE
 
2. Warfarin 17.5 mg PO DAILY16 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
5. Metoprolol Tartrate 50 mg PO BID 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 
3. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth Daily Disp #*5 Tablet 
Refills:*0
4. Omeprazole 20 mg PO DAILY 
5. Warfarin 17.5 mg PO DAILY16 
6. Enoxaparin Sodium 100 mg SC Q12H 
RX *enoxaparin 100 mg/mL Inject 1mL subcutaneously twice daily 
Disp #*28 Syringe Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to our hospital with chest pain in the setting 
of anxiety. We were concerned that you might have had another 
episode of pulmonary emboli (blood clots in your lungs), but 
your tests have come back showing that you did not have these 
and also that your pain was not likely related to your heart. 
Your chest pain has gotten better. It is very important that you 
continue to take your warfarin every day because you are at risk 
of having potentially fatal blood clots. You should also 
continue to take lovenox until your primary care doctor or 
___ clinic provider instruct you to stop. Please 
continue to take all of your medications as prescribed and 
follow up in the ___ on ___ and with 
your primary care doctor on ___.
 
Followup Instructions:
___